US05684195
4-[2-(4-Fluorophenyl)cyclopenten-1-yl]benzenesulfonamide
n-Butyllithium (0.54 mL, 1.34 mmol, 2.49M) was added dropwise via syringe to 1-[2-(4-fluorophenyl)cyclopenten-1-yl]-4-(methylsulfonyl)benzene (prepared as described in U.S. Pat. No. 5,344,991) (0.352 g, 1.11 mmol) and dry tetrahydrofuran (THF) (3.5 mL) cooled in an ice-bath. The resulting orange solution was stirred for 1 hour in the ice-bath and (chloromethyl)trimethylsilane (235 μL, 1.68 mmol) was added in one portion via syringe. The ice-bath was removed and the reaction mixture was stirred for 6 hours at room temperature. Tetrabutylammonium fluoride (6.0 mL, 6.00 mmol, 1M in THF) was added in one portion via syringe, and the resulting mixture was heated to reflux for 45 minutes, then cooled to room temperature. To the reaction mixture was added sequentially NaOAc (0.501 g, 6.11 mmol), water (15.0 mL), and H2NOSO3H (0.712 g, 6.30 mmol) and the reaction was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate (20.0 mL), the layers were separated, and the organic layer was washed with saturated NaHCO3 (2×10 mL), water (10.0 mL), and brine (10.0 mL) then dried over MgSO4. The solution was filtered, the solvents removed under reduced pressure, the crude product was purified by silica gel chromatography to afford 0.294 g (84%) of product as a white solid.

reactant | n-Butyllithium | 1.34 mmol, 2.49M, 0.54 mL | C(CCC)[Li]
reactant | 1-[2-(4-fluorophenyl)cyclopenten-1-yl]-4-(methylsulfonyl)benzene | FC1=CC=C(C=C1)C1=C(CCC1)C1=CC=C(C=C1)S(=O)(=O)C | C18H17FO2S
reactant | (chloromethyl)trimethylsilane | 1.68 mmol, 235 μL | ClC[Si](C)(C)C | C4H11ClSi
reactant | Tetrabutylammonium fluoride | 6.00 mmol, 1M, 6.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaOAc | 6.11 mmol, 0.501 g | CC(=O)[O-].[Na+]
reactant | H2NOSO3H | 6.30 mmol, 0.712 g | NOS(=O)(=O)O | H3NO4S
solvent | ethyl acetate | 20.0 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 15.0 mL | O | H2O
solvent | tetrahydrofuran | 3.5 mL | O1CCCC1 | C4H8O
product | 4-[2-(4-Fluorophenyl)cyclopenten-1-yl]benzenesulfonamide | 0.294 g, 84% | FC1=CC=C(C=C1)C1=C(CCC1)C1=CC=C(C=C1)S(=O)(=O)N | C17H16FNO2S
